US05516774
10,11-Dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine
A 5.0 g sample of 1-(o-nitrobenzyl)-imidazole-2-carboxaldehyde is dissolved in 150 ml of hot ethyl alcohol, cooled to room temperature and filtered. To the filtrate is added 0.5 g of 10% Pd/C and the mixture hydrogenated at 48 psi for 4 hours. An additional 0.5 g of 10% Pd/C is added and hydrogenation continued for 25 hours at 65 psi. The mixture is filtered through diatomaceous earth and the cake washed with ethyl acetate. The filtrate is evaporated in vacuo to a residue which is dissolved in methylene chloride, treated with activated carbon, filtered through diatomaceous earth and hexanes added to the filtrate at the boil to give 1.86 g of the desired product as a crystalline solid, m.p. 164°-170° C.

reactant | 1-(o-nitrobenzyl)-imidazole-2-carboxaldehyde | [N+](=O)([O-])C1=C(CN2C(=NC=C2)C=O)C=CC=C1 | C11H9N3O3
solvent | ethyl alcohol | 150 ml | C(C)O | C2H6O
product | 10,11-Dihydro-5H-imidazo[2,1-c][1,4]benzodiazepine | 1.86 g | N=1C=CN2C1CNC1=C(C2)C=CC=C1 | C11H11N3
